US04845293
Preparation of 4-chloro-2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)aminonitrobenzene
A mixture consisting of 0.1 mole (22.6 g) of 2,4,6-trichloronitrobenzene and 54.7 g of 3-aminopropane-1,2-diol in 20 ml of dioxan is heated under reflux. After heating for 4 hours, the dioxan is evaporated under reduced pressure. The oil obtained is diluted with approximately 300 ml of water. The product expected is obtained by chromatography under pressure in two operations. Approximately 200 ml of the aqueous solution of the product expected containing 3-aminopropane-1,2-diol are injected onto a C18RD chromatrography column (Waters Prep 500 apparatus). The product expected is eluted with a solution containing 35% methanol and 65% water. After evaporation of the fractions containing the product expected, a dry extract is obtained, which is recrystallized from 96° alcohol.

reactant | 2,4,6-trichloronitrobenzene | 0.1 mole, 22.6 g | ClC1=C(C(=CC(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 3-aminopropane-1,2-diol | 54.7 g | NCC(CO)O | C3H9NO2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | approximately 300 ml | O | H2O
product | 4-chloro-2-(β,γ-dihydroxypropyl)amino-6-(β,γ-dihydroxypropyl)aminonitrobenzene | ClC1=CC(=C(C(=C1)NCC(CO)O)[N+](=O)[O-])NCC(CO)O | C12H18ClN3O6
